US08748440B2
4-tert-butyl-N-methyl-N-{1-[3-(4-morpholin-4-ylphenyl)-4-oxo-3,4-dihydroquinazolin-2-yl]ethyl}benzenesulfonamide;
In a similar manner as described above in Paragraph A, but replacing phenyl boronic acid with thiophene-2-boronic acid and N-{1-[3-(4-bromophenyl)-4-oxo-3,4-dihydroquinazolin-2-yl]ethyl}-4-tert-butyl-N-methylbenzenesulfonamide with N-[1-(6-bromo-4-oxo-3-p-tolyl-3,4-dihydroquinazolin-2-yl)ethyl]-4-tert-butyl-N-methylbenzenesulfonamide, the following compound was made:

reactant | thiophene-2-boronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | N-{1-[3-(4-bromophenyl)-4-oxo-3,4-dihydroquinazolin-2-yl]ethyl}-4-tert-butyl-N-methylbenzenesulfonamide | BrC1=CC=C(C=C1)N1C(=NC2=CC=CC=C2C1=O)C(C)N(S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C | C27H28BrN3O3S
reactant | N-[1-(6-bromo-4-oxo-3-p-tolyl-3,4-dihydroquinazolin-2-yl)ethyl]-4-tert-butyl-N-methylbenzenesulfonamide | BrC=1C=C2C(N(C(=NC2=CC1)C(C)N(S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C)C1=CC=C(C=C1)C)=O | C28H30BrN3O3S
product | 4-tert-butyl-N-methyl-N-{1-[3-(4-morpholin-4-ylphenyl)-4-oxo-3,4-dihydroquinazolin-2-yl]ethyl}benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C(C)C1=NC2=CC=CC=C2C(N1C1=CC=C(C=C1)N1CCOCC1)=O)C | C31H36N4O4S
